US07973047B2
(S)-methyl 3-(benzofuran-2-yl)-2-(tert-butoxycarbonyl)propanoate
The title compound was synthesized in a manner analogous to that described Example 475, using (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate and 2-bromobenzofuran. (MS m/z: 220.1 (100%, M−99).

reactant | (R)-methyl 2-(tert-butoxycarbonyl)-3-iodopropanoate | C(C)(C)(C)OC(=O)[C@@H](C(=O)OC)CI | C9H15IO4
reactant | 2-bromobenzofuran | BrC=1OC2=C(C1)C=CC=C2 | C8H5BrO
product | (S)-methyl 3-(benzofuran-2-yl)-2-(tert-butoxycarbonyl)propanoate | O1C(=CC2=C1C=CC=C2)C[C@@H](C(=O)OC)C(=O)OC(C)(C)C | C17H20O5
